US08835462B2
To a solution of DMAP (442 mg, 3.62 mmol, 6.00 equiv) and 2-methyl-6-nitrobenzoic anhydride (415 mg, 1.21 mmol, 2.00 equiv) in CH2Cl2 (92 mL, 6.5 mM) was added a solution of (R)-3-((2S,3R,4S)-2-benzyl-4-hydroxy-3-(triisopropylsilyloxy)pentyloxy)-2-(tert-butoxycarbonylamino)propanoic acid (334 mg, 0.603 mmol, 1.00 equiv) in CH2Cl2 (15 mL) via a syringe pump over 8 h. The resulting solution was stirred at room temperature for an additional 8 h, concentrated, and purified by automated silica gel column chromatography (0-20% hexanes in acetone) to provide tert-butyl (3S,7S,8R,9S)-7-benzyl-9-methyl-2-oxo-8-(triisopropylsilyloxy)-1,5-dioxonan-3-ylcarbamate (318 mg, 98%) as a colorless oil: 1H NMR (400 MHz, CDCl3) δ 7.34-7.07 (m, 5H), 5.30-5.14 (m, 1H), 5.11 (d, J=8.1 Hz, 1H), 4.53 (q, J=8.3 Hz, 1H), 4.08 (dd, J=11.6, 6.9 Hz, 1H), 3.88 (dd, J=6.3, 5.0 Hz, 1H), 3.60 (dd, J=11.7, 5.9 Hz, 1H), 3.44 (d, J=11.6 Hz, 1H), 3.07 (t, J=10.3 Hz, 1H), 2.92 (dd, J=13.3, 4.0 Hz, 1H), 2.76 (t, J=12.4 Hz, 1H), 1.99 (td, J=10.6, 5.0 Hz, 1H), 1.50-1.38 (m, 12H), 1.14-0.99 (m, 21H); 13C NMR (101 MHz, CDCl3) δ 171.75, 154.92, 140.37, 129.13, 128.35, 126.01, 79.99, 78.88, 73.17, 70.69, 52.89, 49.64, 34.63, 28.28, 19.51, 18.24, 18.19, 13.14; HRMS-ESI (m/z) [M+H]+ calc'd for C29H49NO6SiNa, 558.3221. found, 558.3224.

reactant | 2-methyl-6-nitrobenzoic anhydride | 1.21 mmol, 415 mg, 2.00 equiv | CC1=C(C(=O)OC(C2=C(C=CC=C2[N+](=O)[O-])C)=O)C(=CC=C1)[N+](=O)[O-] | C16H12N2O7
reactant | (R)-3-((2S,3R,4S)-2-benzyl-4-hydroxy-3-(triisopropylsilyloxy)pentyloxy)-2-(tert-butoxycarbonylamino)propanoic acid | 0.603 mmol, 334 mg, 1.00 equiv | C(C1=CC=CC=C1)[C@@H](COC[C@H](C(=O)O)NC(=O)OC(C)(C)C)[C@H]([C@H](C)O)O[Si](C(C)C)(C(C)C)C(C)C | C29H51NO7Si
catalyst | DMAP | 3.62 mmol, 442 mg, 6.00 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 6.5 mM, 92 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (3S,7S,8R,9S)-7-benzyl-9-methyl-2-oxo-8-(triisopropylsilyloxy)-1,5-dioxonan-3-ylcarbamate | 318 mg, 98% | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1O[Si](C(C)C)(C(C)C)C(C)C)C)=O)NC(OC(C)(C)C)=O | C29H49NO6Si
